US06969730B2
4′-(4-morpholinylcarbonyl)[1,1′-biphenyl]-4-ol
To a solution of 4-hydroxy-biphenyl-4′-carboxylic acid (5.35 g, 25.0 mmol), morpholine (2.39 g, 27.5 mmol) and triethylamine (3.5 mL, 25 mmol) in dichloromethane (100 mL) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride. The mixture was stirred for 16 hours, diluted with aqueous NaH2PO4 and filtered. The solid was washed with 1:2 diethyl ether/water (100 mL) then with water (400 mL). The solid was dried in vacuo to give the titled compound (5.89 g, 83%). MS (DCI) m/z 284 (M+H)+;

reactant | 4-hydroxy-biphenyl-4′-carboxylic acid | 25.0 mmol, 5.35 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | morpholine | 27.5 mmol, 2.39 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4′-(4-morpholinylcarbonyl)[1,1′-biphenyl]-4-ol | 5.89 g, 83% | N1(CCOCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C17H17NO3
